US08748442B2
To a mixture of 1-(2-fluorobenzyl)-3-(pyrimidin-2-yl)-1H-pyrazole-5-carboxylic acid, intermediate 9 (133 mg, 1 equiv) and oxalyl chloride (60 μL, 1.5 equiv) in chloroform (2.2 ml), was added DMF (3 μL, 0.1 equiv). The mixture was allowed to stir at room temperature and until the bubbling ceased. Then, to this mixture, was added a solution of 0.5 M ammonia in dioxane (2.7 ml, 3.0 equiv). The mixture was stirred at room temperature for 1 h. It was concentrated under vacuum. The resulting residue was suspended in ethyl acetate (200 ml) and washed with saturated solution of sodium bicarbonate (50 ml×2). The organic layer was washed with brine (10 ml), dried, filtered and evaporated to give 120 mg of 1-(2-fluorobenzyl)-3-(pyrimidin-2-yl)-1H-pyrazole-5-carboxamide (91%) as an orange solid.

reactant | 1-(2-fluorobenzyl)-3-(pyrimidin-2-yl)-1H-pyrazole-5-carboxylic acid | FC1=C(CN2N=C(C=C2C(=O)O)C2=NC=CC=N2)C=CC=C1 | C15H11FN4O2
reactant | oxalyl chloride | 60 μL, 1.5 equiv | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 3 μL, 0.1 equiv | CN(C)C=O | C3H7NO
reactant | ammonia | 0.5 M | N | H3N
reactant | dioxane | 2.7 ml, 3.0 equiv | O1CCOCC1 | C4H8O2
solvent | chloroform | 2.2 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(2-fluorobenzyl)-3-(pyrimidin-2-yl)-1H-pyrazole-5-carboxamide | 120 mg, 91% | FC1=C(CN2N=C(C=C2C(=O)N)C2=NC=CC=N2)C=CC=C1 | C15H12FN5O
